US06197975B1
Step 8.1C {2-[2-(3,5-dimethylphenyl)-5-(4-methylthiazol-2-ylamino)-1H-indol-3yl]-ethyl}-[4-(4-methanesulfonylaminophenyl) butyl]carbamic acid tert-butyl ester
To a solution of {2-[2-(3,5-dimethylphenyl)-5-thioureido-1H-indol-3-yl]ethyl}-[4-(4-methanesulfonylaminophenyl)butyl]carbamic acid tert-butyl ester (15 mg in 0.80 mL ethanol) was added 0.010 mL chloroacetone and the resulting suspension heated to reflux on an oil bath. After 5 hours, the mixture was cooled to room temperature and concentrated in vacuo. Purification of the residue by flash chromatography on silica gel (methylene chloride:methanol, 96:4) gave the title compound (15 mg).

reactant | {2-[2-(3,5-dimethylphenyl)-5-thioureido-1H-indol-3-yl]ethyl}-[4-(4-methanesulfonylaminophenyl)butyl]carbamic acid tert-butyl ester | 0.80 mL, 15 mg | C(C)(C)(C)OC(N(CCCCC1=CC=C(C=C1)NS(=O)(=O)C)CCC1=C(NC2=CC=C(C=C12)NC(=S)N)C1=CC(=CC(=C1)C)C)=O | C35H45N5O4S2
reactant | chloroacetone | 0.010 mL | ClCC(C)=O | C3H5ClO
product | {2-[2-(3,5-dimethylphenyl)-5-(4-methylthiazol-2-ylamino)-1H-indol-3yl]-ethyl}-[4-(4-methanesulfonylaminophenyl) butyl]carbamic acid tert-butyl ester | 15 mg | C(C)(C)(C)OC(N(CCCCC1=CC=C(C=C1)NS(=O)(=O)C)CCC1=C(NC2=CC=C(C=C12)NC=1SC=C(N1)C)C1=CC(=CC(=C1)C)C)=O | C38H47N5O4S2
